US04870075
E-methyl 3-methoxy(2'-benzyloxyphenyl)propenoate (5.44 g) was dissolved in ethyl acetate (50 ml) and 5% palladium on carbon (0.25 g) was added. The stirred mixture was hydrogenated at three atmospheres pressure, with stirring, until no more hydrogen was taken up, then filtered through celite and silica gel (50 g, Merck 60). Concentration of the filtrate under reduced pressure afforded E-methyl 3-methoxy-2-(2'-hydroxyphenyl)propenoate as a white crystalline solid (3.76 g; 99% yield), M.P. 125°-126° C.; infrared maxima (nujol mull): 3400, 1670 cm- ; 1H nmr (CDCl3, 270 MHz): delta 3.80 (3H, s), 3.90 (3H, s), 6.20 (1H, s), 6.80-7.00 (2H, m), 7.10-7.30 (2H, m), 7.60 (1H, s) ppm.

reactant | E-methyl 3-methoxy(2'-benzyloxyphenyl)propenoate | 5.44 g | CO/C=C(/C(=O)OC)\C1=C(C=CC=C1)OCC1=CC=CC=C1 | C18H18O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | E-methyl 3-methoxy-2-(2'-hydroxyphenyl)propenoate | 99% yield | CO/C=C(/C(=O)OC)\C1=C(C=CC=C1)O | C11H12O4
